US06407116B1
2-Amino-N-(4-methoxybenzyl)benzamide
Isatoic anhydride (10.0 g) was suspended in tetrahydrofuran (150 ml) and treated dropwise with 4-methoxybenzylamine (9.61 ml). The reaction mixture was stirred at room temperature for 20 hours and then the solvent was distilled off under reduced pressure to give a crude crystal (17.8 g, about 100%) of the title compound. Recrystallization from ethyl acetate-isopropyl ether yielded a colorless crystal, melting point 104 to 105° C.

reactant | Isatoic anhydride | 10.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 4-methoxybenzylamine | 9.61 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Amino-N-(4-methoxybenzyl)benzamide | 17.8 g, about 100% | NC1=C(C(=O)NCC2=CC=C(C=C2)OC)C=CC=C1 | C15H16N2O2
